US05116858
1-cyclohexyl-5-(4'-decyloxyphenyl)-4-methyl-4-imidazolin-2-one (Compound No. 122)
2-Amino-4'-decyloxypropiophenone hydrochloride (500 mg, 1.46 mmol) was suspended in acetone (180 ml) under ice-cooling, and cyclohexyl isocyanate (201 mg, 1.61 mmol) was added thereto. Triethylamine (590 mg, 5.84 mmol) was added, and the mixture was stirred for one hour under ice-cooling. After addition of trifluoroacetic acid (2 ml), the mixture was stirred overnight at room temperature. The solvent was removed by evaporation in vacuo, and the residue was extracted with ethyl ether. The extract was washed successively with water and saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate. Evaporation of the solvent provided a crude product, which was then purified by column chromatography (chloroform/ethanol=50/1 (v/v)) to give the title compound. Yield: 235 mg (39%), m.p. 137°-138° C.

reactant | 2-Amino-4'-decyloxypropiophenone hydrochloride | 1.46 mmol, 500 mg | Cl.NC(C(=O)C1=CC=C(C=C1)OCCCCCCCCCC)C
reactant | cyclohexyl isocyanate | 1.61 mmol, 201 mg | C1(CCCCC1)N=C=O | C7H11NO
reactant | Triethylamine | 5.84 mmol, 590 mg | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetone | 180 ml | CC(=O)C | C3H6O
product | 1-cyclohexyl-5-(4'-decyloxyphenyl)-4-methyl-4-imidazolin-2-one | C1(CCCCC1)N1C(NC(=C1C1=CC=C(C=C1)OCCCCCCCCCC)C)=O | C26H40N2O2
